US05840726
Synthesis of N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2,2-bis-phenyl-ethylamine
Combine 2,2-bis-phenyl-ethylamine (20.0 g, 100.0 mmol) and dichloromethane (200 mL) and cool in an ice-bath to 0° C. Add dimethylaminopyridine (1.0 g, 8.2 mmol) and di-t-butyl dicarbonate (22.0 g, 100.0 mmol). After the addition is complete warm to ambient temperature for 5 hours. Evaporate in vacuo to give a residue. Dissolve the residue in ethyl acetate and extract with 0.1M hydrochloric acid solution, water and saturated sodium chloride solution. Separate the organic layer and dry over MgSO4, filter and evaporate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 10% ethyl acetate/hexane to give the title compound.

reactant | 2,2-bis-phenyl-ethylamine | 100.0 mmol, 20.0 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | dimethylaminopyridine | 8.2 mmol, 1.0 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | di-t-butyl dicarbonate | 100.0 mmol, 22.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-t-Butoxycarbonyl-N-(2-oxo-ethyl)-2,2-bis-phenyl-ethylamine | C(C)(C)(C)OC(=O)N(CC=O)CC(C1=CC=CC=C1)C1=CC=CC=C1 | C21H25NO3
